US08877754B2
N-Ethyl-2-(4-trimethylsilanylethynyl-phenyl)-propionamide
To 4.90 g (49.9 mmol) trimethylsilylacetylene in 450 mL acetonitrile are added 12.1 g (39.9 mmol) N-ethyl-2-(4-iodo-phenyl)-propionamide (IV.1) under argon, followed by 1.68 g (2.40 mmol) Pd(PPh3)2Cl2 as catalyst, 0.23 g (1.20 mmol) copper(I)iodide and 11.1 mL (80 mmol) TEA as base. The mixture is stirred at rt for 2.5 h. After that time, EtOAc is added and the organic layer is washed with saturated ammonium chloride solution and brine. The organic layer is separated, dried over sodium sulphate and the solvent is evaporated. The residue is purified by column chromatography (silicia gel; EtOAc/heptane, gradient 50% to 80%) to yield the desired product.

reactant | trimethylsilylacetylene | 49.9 mmol, 4.90 g | C[Si](C)(C)C#C | C5H10Si
reactant | N-ethyl-2-(4-iodo-phenyl)-propionamide | 39.9 mmol, 12.1 g | C(C)NC(C(C)C1=CC=C(C=C1)I)=O | C11H14INO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 450 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 2.40 mmol, 1.68 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 1.20 mmol, 0.23 g | [Cu]I
product | N-Ethyl-2-(4-trimethylsilanylethynyl-phenyl)-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#C[Si](C)(C)C)=O | C16H23NOSi
